2129-01-25 06:19:00 Physician Resident Progress Note
Chief Complaint: Overnight pressors were weaned to 1.5 levo, 0.3 neo,
   received 3L LR with good hemodynamic response. Patient became more
   awake, alert and responsive. C/o headache, had no evidence of
   neurological symptoms, and resolved with increased fentanyl.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2129-1-24**] 10:55 AM
 MULTI LUMEN - START [**2129-1-24**] 01:30 PM
 TRANSTHORACIC ECHO - At [**2129-1-24**] 04:00 PM
 NASAL SWAB - At [**2129-1-24**] 10:00 PM
 ARTERIAL LINE - START [**2129-1-25**] 12:16 AM
   Allergies:
   Penicillins
   Anaphylaxis;
   Macrobid (Oral) (Nitrofurantoin/Nitrofuran Mac)
   Unknown;
   Betadine (Topical) (Povidone-Iodine)
   redness
   itchin
   Last dose of Antibiotics:
   Vancomycin - [**2129-1-24**] 04:00 PM
   Levofloxacin - [**2129-1-24**] 06:00 PM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Phenylephrine - 1.5 mcg/Kg/min
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2129-1-24**] 11:25 AM
   Pantoprazole (Protonix) - [**2129-1-24**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-25**] 05:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 109 (92 - 125) bpm
   BP: 101/54(70) {96/54(70) - 136/81(330)} mmHg
   RR: 16 (11 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 18 (18 - 18)mmHg
   Bladder pressure: 24 (24 - 24) mmHg
   Total In:
                                                                 13,637 mL
                                                                  1,818 mL
   PO:
   TF:
   IVF:
                                                                  8,687 mL
                                                                  1,818 mL
   Blood products:
                                                                    900 mL
   Total out:
                                                                    483 mL
                                                                     93 mL
   Urine:
                                                                    413 mL
                                                                     93 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 13,154 mL
                                                                  1,725 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 6
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10, Hemodynamic Instability
   PIP: 25 cmH2O
   SpO2: 100%
   ABG: 7.35/38/191/22/-3
   Ve: 7.1 L/min
   PaO2 / FiO2: 478
   Physical Examination
   GENERAL: Obese Caucasian Female intubated in NARD.
   HEENT: Intubated. PERRLA/EOMI.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**].
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   throughout. 5/5 strength throughout. [**1-30**]+ reflexes, equal BL. Normal
   coordination. Gait assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   282 K/uL
   11.5 g/dL
   176 mg/dL
   1.6 mg/dL
   22 mEq/L
   4.6 mEq/L
   30 mg/dL
   107 mEq/L
   143 mEq/L
   31.8 %
   13.4 K/uL
        [image002.jpg]
                            [**2129-1-24**]  11:22 AM
                            [**2129-1-24**]  04:49 PM
                            [**2129-1-24**]  06:49 PM
                            [**2129-1-24**]  09:49 PM
                            [**2129-1-24**]  10:13 PM
                            [**2129-1-25**]  01:48 AM
   WBC
   17.8
   13.4
   Hct
   38.7
   35.1
   32.2
   31.8
   Plt
   382
   282
   Cr
   1.6
   TCO2
   22
   22
   Glucose
   176
   Other labs: PT / PTT / INR:16.3/150.0/1.4, ALT / AST:129/208, Alk Phos
   / T Bili:70/0.3, Ca++:6.7 mg/dL, Mg++:1.7 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   51 yo F s/p recent b/l breast reduction c/b infection p/w PEA arrest
   s/p multiple cycles of Atropine/Epi likely [**3-1**] PE s/p thrombolytics on
   pressors, intubated, heparin gtt.
   .
   #. Obstructive Cardiogenic Shock: Pt in cardiogenic shock [**3-1**] PE
   burden, CT scan shows RV dilatation and multiple bilateral PEs. TTE
   showed hypokinetic, dilated RV. LV systolic function intact. Pt is
   likely preload dependent and is responding well to continued IVF.
   Dobutamine was given initially, but pt had tachycardia and decreased
   BPs in response. On levo and neo.
   - would favor IVF boluses to maintain BP rather than pressors
   - wean pressors for goal MAPs >65
   - cortisol pending
   .
   #. Large P.E s/p thrombolytics: Pt noted to have a large PE on CT scan
   likely [**3-1**] immobile status s/p surgery. Due to her PEA arrest she
   underwent thrombolytic therapy which ended at 925. Currently on heparin
   gtt. No e/o DIC; fibrinogen likely low [**3-1**] t-PA.
   - continue heparin gtt with goal PTT 60-80.
   - monitor coags, Fibrinogen, FDP for e/o DIC
   - transfuse 1 unit PRBCs
   - check Hct q4hrs
   - guaiac all stools
   .
   #. s/p PEA arrest: Had 3 episodes, likely [**3-1**] PEs. No e/o cerebral
   ischemic injury although difficult to judge with intubation/sedation.
   - monitor on tele, no events overnight
   .
   #. Tranaminitis: Hepatic congestion [**3-1**] right heart strain vs. ischemic
   hepatitis, degree of elevation more c/w congestion.
   - monitor daily
   .
   #. [**Last Name (un) **]: Cr 1.6, unknown baseline but presumably normal. Likely
   pre-renal in setting of hypotension/hypoperfusion, but could also have
   ATN from same etiology.
   - monitor response with fluids and improved BP
   - urine lytes pending
   .
   #. HCT drop: Patient had Hct drop despite receiving 2 units PRBC, in
   setting of t-PA and supratherapeutic PTT of >150 on heparin gtt.
   Patient did have visible bleeding from bleed surigical sites, diffuse
   oozing and BRBPR, but there is still concern for occult blood loss with
   this degree of Hct drop. Concern would be for RP bleed.
   - non con CT to r/o RP bleed
   - cont q4h Hct checks and transfuse for goal>30
   .
   #. AMS: Pt noted to be unresponsive initially on examination with no
   sedation on board. At OSH she was reported to have non-focal movement
   of her upper extremities. Now alert, responsive, following commands,
   neuro exam grossly intact. Cannot yet entirely rule out brain injury
   from hypoxia/hypoperfusion, but seems reassuring at this point. Pt c/o
   headache overnight but pupils equal and reactive, headache seems to
   have resolved.
   - will continue to monitor neuro exam q4hrs specfically for pupillary
   reaction
   .
   #. ?Pneumomediastinum: On CXR portable there appears to be trace air in
   the mediastinum, suspect this was artifact and not seen on today
s CXR.
   .
   #. ?Catheter wire: On CXR portable there appears to be an artifact that
   could be a threading wire, unclear if this is external or internal
   though on my check after CXR read there appears to be no external wire.
   Oblique view showed artifact had relocated to below the diaphragm,
   highly unlikely that this is internal. Repeat this AM continues to show
   this foreign object vs. artifact.
   - look at scout images for ab CT
   - consider lateral film
   .
   #. s/p intubation: Pt had good p02 on Fi02 50% and weaned down to 40%
   this AM. Patient has good respiratory drive and mental status would
   likely support extubation.  Will keep intubated today to allow more
   aggressive hydration.
   - PSV trial, maintain patient at most comfortable settings
   .
   #. s/p Breast surgery reduction c/b infection: Will try to obtain OSH
   records regarding pt's recent infectious course. Pt noted to have some
   bleeding at right breast surgical site after tPA.
   - cont levaquin for prior wound infection course
   - D/C vanco since prior wound cx grew GNR
   - f/u bld cx
   - continue with pressure dressing over surgical site
   ICU Care
   Nutrition: initiate  TF via  OGT, replete electrolytes (check ionized
   Ca daily with ABG)
   Glycemic Control:
   Lines:
   18 Gauge - [**2129-1-24**] 11:49 AM
   16 Gauge - [**2129-1-24**] 11:50 AM
   Multi Lumen - [**2129-1-24**] 01:30 PM
   Arterial Line - [**2129-1-25**] 12:16 AM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: IV ppi
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: [**Name (NI) **] [**Name (NI) 2084**] (HCP/Husband): [**Telephone/Fax (1) 10721**] and
   patient
   Code status: FULL
   Disposition:ICU

2129-01-25 09:00:00 Physician Attending Progress Note
Chief Complaint: PEA Arrest
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2129-1-24**] 10:55 AM
 MULTI LUMEN - START [**2129-1-24**] 01:30 PM
 TRANSTHORACIC ECHO - At [**2129-1-24**] 04:00 PM
 NASAL SWAB - At [**2129-1-24**] 10:00 PM
 ARTERIAL LINE - START [**2129-1-25**] 12:16 AM
   IVF with good response
   patient with improved motor activity and responsive to verbal commands
   Dobutamine trialed and patient had increase in HR with decrease in BP
   noted and then had return to neosynephrine with good response
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Penicillins
   Anaphylaxis;
   Macrobid (Oral) (Nitrofurantoin/Nitrofuran Mac)
   Unknown;
   Betadine (Topical) (Povidone-Iodine)
   redness
   itchin
   Last dose of Antibiotics:
   Levofloxacin - [**2129-1-24**] 06:00 PM
   Vancomycin - [**2129-1-25**] 07:43 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Phenylephrine - 1.3 mcg/Kg/min
   Norepinephrine - 0.31 mcg/Kg/min
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2129-1-24**] 11:25 AM
   Pantoprazole (Protonix) - [**2129-1-24**] 09:00 PM
   Midazolam (Versed) - [**2129-1-25**] 08:00 AM
   Fentanyl - [**2129-1-25**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2129-1-25**] 08:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 113 (92 - 125) bpm
   BP: 105/54(71) {96/54(69) - 136/81(330)} mmHg
   RR: 17 (11 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 18 (18 - 18)mmHg
   Bladder pressure: 24 (24 - 24) mmHg
   Total In:
                                                                 13,637 mL
                                                                  2,353 mL
   PO:
   TF:
   IVF:
                                                                  8,687 mL
                                                                  2,353 mL
   Blood products:
                                                                    900 mL
   Total out:
                                                                    483 mL
                                                                    503 mL
   Urine:
                                                                    413 mL
                                                                    253 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                 13,154 mL
                                                                  1,850 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10, Hemodynamic Instability
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.35/38/191/20/-3
   Ve: 8.9 L/min
   PaO2 / FiO2: 478
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Spontaneous, PERRL
   Labs / Radiology
   9.7 g/dL
   230 K/uL
   137 mg/dL
   2.1 mg/dL
   20 mEq/L
   4.1 mEq/L
   36 mg/dL
   105 mEq/L
   137 mEq/L
   28.8 %
   10.7 K/uL
        [image002.jpg]
                            [**2129-1-24**]  11:22 AM
                            [**2129-1-24**]  04:49 PM
                            [**2129-1-24**]  06:49 PM
                            [**2129-1-24**]  09:49 PM
                            [**2129-1-24**]  10:13 PM
                            [**2129-1-25**]  01:48 AM
                            [**2129-1-25**]  05:21 AM
   WBC
   17.8
   13.4
   10.7
   Hct
   38.7
   35.1
   32.2
   31.8
   28.8
   Plt
   382
   282
   230
   Cr
   1.6
   2.1
   TCO2
   22
   22
   Glucose
   176
   137
   Other labs: PT / PTT / INR:16.5/150.0/1.5, ALT / AST:129/208, Alk Phos
   / T Bili:70/0.3, Fibrinogen:273 mg/dL, Ca++:7.0 mg/dL, Mg++:1.4 mg/dL,
   PO4:5.5 mg/dL
   Imaging: CXR-
   Assessment and Plan
   51 yo female s/p breast reduction now presenting with massive PE and
   PEA arrest.  She now has had some meaningful improvement in neurologic
   status and able to respond to verbal stimuli and is compaining of
   headache overnight.  Importantly she has had rapid wean of FIO2
   overnight with preserved oxygenation.  Urine output has been maintained
   at 30-40cc/hr.
   1)Cardiac Arrest-Patient with PEA arrest secondary to pulmonary
   embolism now s/p thrombolysis
   -Will follow exam
   -Will support for persistent cardiogenic shock
   2)Respiratory Failure-This is secondary to arrest with need for
   intubation and now patient currently with left sided effusion and
   likely consolidation.  Patient with good respiratory effort this
   morning favorable compliance and will move to support in pressure
   support ventilation mode.
   -PSV today and will continue to follow via ABG
   -Do see substantial improvement in mental status and oxygenation
   -Will maintain patient intubated while we are continuing to support
   through cardiogenic shock
   Vanco/Levo
   3)Shock-Cardiogenic
   -Levophed and neosynephrine
   -Will provide fluid bolus for recurrent hypotension
   -Elevation in LFT
s is likely secondary to shock liver and continued
   congestion.
   4)Pulmonary Embolism-
   -PTT has been elevated and have Heparin held
   -Goal PTT is 60-80
   5)Altered Mental Status-
   -Versed Fentanyl
   -Patient with good response to verbal commands and able to follow
   commands
   6)Acute Renal Failure-Continued rise in creatinine to 2.1
   -Urine lytes this morning
   -Will need to evlauate urine sediment
   -Will have to consider dye load as possible contribution
   ICU Care
   Nutrition: Tube Feeds today
   Glycemic Control:
   Lines:
   18 Gauge - [**2129-1-24**] 11:49 AM
   16 Gauge - [**2129-1-24**] 11:50 AM
   Multi Lumen - [**2129-1-24**] 01:30 PM
   Arterial Line - [**2129-1-25**] 12:16 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes

2129-01-26 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: --Patient weaned off neo, still on levophed
   @.3/mcg/min
   --Urine lytes show 0.6% FeNa
   --Patient continued to be slightly hypotensive (SBPs in the 80s), but
   responded well to fluids; also became hypotensive when complained of
   pain and fentanyl increased
   --Received 1 unit of blood overnight; we still don't know where her
   blood is going!
   --Final CT read:  No evidence of retroperitoneal hematoma; persistent
   nephrograms bilaterally, consistent with ATN; Colonic distention and
   focal wall thickening of the transverse colon, infectious,
   inflammatory, or ischemic.
   24 Hour Events:
   Allergies:
   Penicillins
   Anaphylaxis;
   Macrobid (Oral) (Nitrofurantoin/Nitrofuran Mac)
   Unknown;
   Betadine (Topical) (Povidone-Iodine)
   redness
   itchin
   Last dose of Antibiotics:
   Levofloxacin - [**2129-1-24**] 06:00 PM
   Vancomycin - [**2129-1-25**] 07:43 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Heparin Sodium - 800 units/hour
   Fentanyl (Concentrate) - 125 mcg/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-1-25**] 07:48 PM
   Midazolam (Versed) - [**2129-1-26**] 02:57 AM
   Fentanyl - [**2129-1-26**] 05:11 AM
   Heparin Sodium - [**2129-1-26**] 05:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-26**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.7
C (99.8
   HR: 100 (99 - 117) bpm
   BP: 107/54(70) {83/43(56) - 131/63(84)} mmHg
   RR: 13 (9 - 19) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  6,350 mL
                                                                    332 mL
   PO:
             TF:
                                                                     69 mL
   IVF:
                                                                  5,557 mL
                                                                    332 mL
   Blood products:
                                                                    725 mL
   Total out:
                                                                  1,793 mL
                                                                  1,325 mL
   Urine:
                                                                  1,543 mL
                                                                  1,325 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                  4,557 mL
                                                                   -993 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 515 (498 - 570) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.35/44/167/22/-1
   Ve: 7.7 L/min
   PaO2 / FiO2: 418
   Physical Examination
   GENERAL: Obese Caucasian Female intubated in NARD.
   HEENT: Intubated. PERRLA/EOMI.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**].
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   throughout. 5/5 strength throughout. [**1-30**]+ reflexes, equal BL. Normal
   coordination. Gait assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   157 K/uL
   8.7 g/dL
   131 mg/dL
   2.9 mg/dL
   22 mEq/L
   3.9 mEq/L
   37 mg/dL
   104 mEq/L
   134 mEq/L
   25.1 %
   8.4 K/uL
        [image002.jpg]
                            [**2129-1-25**]  05:21 AM
                            [**2129-1-25**]  08:13 AM
                            [**2129-1-25**]  09:46 AM
                            [**2129-1-25**]  11:37 AM
                            [**2129-1-25**]  03:50 PM
                            [**2129-1-25**]  05:46 PM
                            [**2129-1-25**]  07:37 PM
                            [**2129-1-25**]  11:29 PM
                            [**2129-1-26**]  03:59 AM
                            [**2129-1-26**]  04:10 AM
   WBC
   10.7
   8.4
   Hct
   28.8
   26.5
   28.3
   27.8
   24.4
   26.8
   25.1
   Plt
   230
   157
   Cr
   2.1
   2.7
   2.9
   TCO2
   22
   25
   Glucose
   137
   138
   131
   Other labs: PT / PTT / INR:14.6/57.3/1.3, Fibrinogen:273 mg/dL, Lactic
   Acid:1.8 mmol/L, Ca++:7.0 mg/dL, Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   51 yo F s/p recent b/l breast reduction c/b infection p/w PEA arrest x3
   s/p multiple cycles of Atropine/Epi likely [**3-1**] PE s/p thrombolytics on
   pressors, intubated, heparin gtt.
   .
   #. Obstructive Cardiogenic Shock: Pt in cardiogenic shock [**3-1**] PE
   burden. TTE showed hypokinetic, dilated RV. LV systolic function
   intact. Pt is likely preload dependent and is responds well to IVF. Is
   continuing to require pressors, as BP drops with pain meds. AM cortisol
   wnl.
   - wean pressors for goal MAPs >65
   .
   #. Large PE s/p thrombolytics: Pt noted to have a large PE on CT scan
   likely [**3-1**] immobile status s/p surgery. Due to her PEA arrest she
   underwent thrombolytic therapy on [**1-24**]. Currently on heparin gtt. No
   e/o DIC; fibrinogen likely low [**3-1**] t-PA.
   - continue heparin gtt with goal PTT 60-80.
   - transfuse for goal Hct>30
   - check Hct q4hrs
   - guaiac all stools
   .
   # Anemia: Pt continues to have falling Hct despite transfusions. Source
   of bleeding unclear- unlikely to be all explained by surgical site, CT
   ab neg for RP bleed.
   - hemolysis labs
   - cont q4 Hct checks and transfuse for Hct<30
   .
   #. Tranaminitis: Hepatic congestion [**3-1**] right heart strain vs. ischemic
   hepatitis, degree of elevation more c/w congestion.
   - recheck today
   .
   #. [**Last Name (un) **]: FeNA 0.6. Cr continues to increase after hydration and improved
   hemodynamics, more consistent with ATN caused by
   hypoperfusion/hypotension. CT scan also showed e/o ATN bilaterally.
   - renally dose meds
   - trend Cr and lytes daily
   - consider renal consult if Cr worsens
   .
   #. AMS: alert, responsive, following commands, neuro exam grossly
   intact. Cannot yet entirely rule out brain injury from
   hypoxia/hypoperfusion, but seems reassuring at this point
   - will continue to monitor neuro exam q4hrs specfically for pupillary
   reaction
   .
   #. ?Catheter wire: On CXR portable there appears to be an artifact that
   could be a threading wire, unclear if this is external or internal
   though on my check after CXR read there appears to be no external wire.
   Oblique view showed artifact had relocated to below the diaphragm,
   highly unlikely that this is internal. Repeat this AM continues to show
   this foreign object vs. artifact.
   - look at scout images for ab CT
   - consider lateral film
   .
   #. s/p intubation: - PSV trial
   - SBT today
   .
   #. s/p Breast surgery reduction c/b infection: Will try to obtain OSH
   records regarding pt's recent infectious course. Pt noted to have some
   bleeding at right breast surgical site after tPA.
   - appreciate plastics recs
   - cont levaquin for prior wound infection course
   - f/u bld cx
   - continue with pressure dressing over surgical site
   ICU Care
   Nutrition: initiate  TF via  OGT, replete electrolytes (check ionized
   Ca daily with ABG)
   Glycemic Control:
   Lines:
   18 Gauge - [**2129-1-24**] 11:49 AM
   16 Gauge - [**2129-1-24**] 11:50 AM
   Multi Lumen - [**2129-1-24**] 01:30 PM
   Arterial Line - [**2129-1-25**] 12:16 AM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: IV ppi
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: [**Name (NI) **] [**Name (NI) 2084**] (HCP/Husband): [**Telephone/Fax (1) 10721**] and
   patient
   Code status: FULL
   Disposition:ICU

2129-01-26 08:44:00 Physician Attending Progress Note
Chief Complaint: Cardiac Arrest
   Respiratory Failure
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
   CT--no RP bleed, kidneys concerning for ATN, colonic distention
   Levophed continued for some decrease in BP with pain medications given
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Penicillins
   Anaphylaxis;
   Macrobid (Oral) (Nitrofurantoin/Nitrofuran Mac)
   Unknown;
   Betadine (Topical) (Povidone-Iodine)
   redness
   itchin
   Last dose of Antibiotics:
   Levofloxacin - [**2129-1-24**] 06:00 PM
   Vancomycin - [**2129-1-25**] 07:43 AM
   Infusions:
   Heparin Sodium - 800 units/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-1-25**] 07:48 PM
   Midazolam (Versed) - [**2129-1-26**] 02:57 AM
   Fentanyl - [**2129-1-26**] 05:11 AM
   Heparin Sodium - [**2129-1-26**] 05:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Respiratory: No(t) Tachypnea
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2129-1-26**] 08:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36
C (96.8
   HR: 100 (99 - 117) bpm
   BP: 107/54(70) {83/43(56) - 131/63(84)} mmHg
   RR: 13 (9 - 19) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  6,350 mL
                                                                    382 mL
   PO:
             TF:
                                                                     69 mL
   IVF:
                                                                  5,557 mL
                                                                    382 mL
   Blood products:
                                                                    725 mL
   Total out:
                                                                  1,793 mL
                                                                  1,400 mL
   Urine:
                                                                  1,543 mL
                                                                  1,400 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                  4,557 mL
                                                                 -1,018 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 515 (498 - 570) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.35/44/167/22/-1
   Ve: 7.7 L/min
   PaO2 / FiO2: 418
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   157 K/uL
   131 mg/dL
   2.9 mg/dL
   22 mEq/L
   3.9 mEq/L
   37 mg/dL
   104 mEq/L
   134 mEq/L
   25.1 %
   8.4 K/uL
        [image002.jpg]
                            [**2129-1-25**]  05:21 AM
                            [**2129-1-25**]  08:13 AM
                            [**2129-1-25**]  09:46 AM
                            [**2129-1-25**]  11:37 AM
                            [**2129-1-25**]  03:50 PM
                            [**2129-1-25**]  05:46 PM
                            [**2129-1-25**]  07:37 PM
                            [**2129-1-25**]  11:29 PM
                            [**2129-1-26**]  03:59 AM
                            [**2129-1-26**]  04:10 AM
   WBC
   10.7
   8.4
   Hct
   28.8
   26.5
   28.3
   27.8
   24.4
   26.8
   25.1
   Plt
   230
   157
   Cr
   2.1
   2.7
   2.9
   TCO2
   22
   25
   Glucose
   137
   138
   131
   Other labs: PT / PTT / INR:14.6/57.3/1.3, ALT / AST:129/208, Alk Phos /
   T Bili:70/0.3, Fibrinogen:273 mg/dL, Lactic Acid:1.8 mmol/L, Ca++:7.0
   mg/dL, Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Imaging: CXR-
   Assessment and Plan
   51 yo female with cardiac arrest and now with remarkable improvement in
   mental status and oxygenation 2 days following event.  She now has had
   persistent hypotension which has required pressor support but has moved
   to increased urine flow and negative fluid balance in past 24 hours.
   This morning she has had good tolerance of minimal pressure suppport
   settings and with favorable RSBI and good tolerance of SBT for 45
   minutes at the time of patient examination.
   1)Respiratory Failure
Patient with movement to SBT and great tolerance
   of 5/0 through this morning.  Patient respond appropriately to voice
   commands and able to lift head off of bed.   We will follow up on ABG
   at termination of SBT and favorable numbers would point to best
   opportunity for success.
   -Extubation this morning
   -Follow up eval of cuff leak
   -Will need pain control post extubation for likely significant rib
   fractures and previous pain with infection
   Additional issues to be addressed as defined in the housestaff note of
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2129-1-24**] 11:49 AM
   Multi Lumen - [**2129-1-24**] 01:30 PM
   Arterial Line - [**2129-1-25**] 12:16 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 44 minutes

2129-01-27 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2129-1-26**] 10:03 AM
   Extubated in AM, did well post-extubation.
   Weaned off pressors.
   Hct 25 -> 24 -> 22 (1U PRBCs) -> 23.7 -> 22.4 (1U PRBCs)-> 26.3 -> 25.9
   CXR overnight to look for hemothorax: showed only stable LLL
   atelectasis and pleural effusion with increased pulm edema.
   -nonbloody, but bilious emesis at 2 am after getting PO dilaudid.  Gave
   zofran, compazine.  No further episodes emesis.
   This AM, patient reports feeling
terrible.
 Complains of abdominal
   tenderness and distension.  Denies nausea.  Reports that her
brain
   feels foggy.
   Allergies:
   Penicillins
   Anaphylaxis;
   Macrobid (Oral) (Nitrofurantoin/Nitrofuran Mac)
   Unknown;
   Betadine (Topical) (Povidone-Iodine)
   redness
   itchin
   Last dose of Antibiotics:
   Levofloxacin - [**2129-1-24**] 06:00 PM
   Vancomycin - [**2129-1-25**] 07:43 AM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Fentanyl - [**2129-1-26**] 12:33 PM
   Heparin Sodium - [**2129-1-26**] 12:39 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-27**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
F) at 10 pm
   Tcurrent: 37.2
C (99
   HR: 94 (91 - 118) bpm
   BP: 155/57(87) {83/40(54) - 155/57(87)} mmHg
   RR: 17 (12 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 115 kg (admission): 118.3 kg
             Total In:
                                                                  2,068 mL
                                                                    121 mL
   PO:
                                                                    750 mL
             TF:
   IVF:
                                                                    618 mL
                                                                    121 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  3,990 mL
                                                                  1,005 mL
   Urine:
                                                                  3,990 mL
                                                                    805 mL
   NG:
   200 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,922 mL
                                                                   -884 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula at 2L
   Physical Examination
   GENERAL: Obese Caucasian Female in NAD
   HEENT: NCAT, PERRL, EOMI, OP clear, MMM
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**].
   LUNGS: Diffusely wheezy anteriorly
   ABDOMEN: +BS, obese and distended, TTP diffusely, but most noticeable
   in lower quadrants, no rebound or guarding
   EXTREMITIES: 3+ UE edema with RUE bullous blisters,  2+ dorsalis pedis/
   posterior tibial pulses.
   NEURO: A&Ox3. perseverative.
   PSYCH: Listens and responds to questions appropriately
   Labs / Radiology
   123 K/uL
   8.9 g/dL
   98 mg/dL
   3.0 mg/dL
   24 mEq/L
   3.8 mEq/L
   37 mg/dL
   106 mEq/L
   138 mEq/L
   25.9 %
   8.6 K/uL
        [image002.jpg]
                            [**2129-1-25**]  11:29 PM
                            [**2129-1-26**]  03:59 AM
                            [**2129-1-26**]  04:10 AM
                            [**2129-1-26**]  08:06 AM
                            [**2129-1-26**]  08:33 AM
                            [**2129-1-26**]  11:46 AM
                            [**2129-1-26**]  04:43 PM
                            [**2129-1-26**]  07:00 PM
                            [**2129-1-27**]  01:46 AM
                            [**2129-1-27**]  05:21 AM
   WBC
   8.4
   8.1
   7.4
   8.1
   8.6
   Hct
   26.8
   25.1
   24.0
   22.2
   23.7
   22.4
   26.3
   25.9
   Plt
   157
   151
   119
   123
   123
   Cr
   2.9
   3.0
   TCO2
   25
   25
   Glucose
   131
   98
   Other labs: PT / PTT / INR:12.3/62.4/1.0, ALT / AST:53/59, Alk Phos / T
   Bili:68/0.5, Fibrinogen:273 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.1
   g/dL, LDH:494 IU/L, Ca++:7.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Micro:
   Blood Cx [**1-24**] NGTD
   CXR [**1-26**] wet read:
   Unchanged left lower lobe atelectasis and pleural effusion with
   moderately
   severe interstitial edema.
   Assessment and Plan
   51 yo F s/p recent b/l breast reduction c/b infection p/w PEA arrest x3
   s/p multiple cycles of Atropine/Epi likely [**3-1**] PE s/p thrombolytics on
   heparin gtt, now of pressors and extubated.
   .
   # Anemia: Pt continues to have falling Hct despite transfusions. Source
   of bleeding unclear- unlikely to be all explained by surgical site, CT
   ab neg for RP bleed.   No signs of hemolysis.  Patient does have
   ecchymosis in left groin (line placed in rt groin).
   - cont q4 Hct checks and transfuse for Hct<25.  Would space out Hct
   checks if next is stable.
   - CT legs to determine if thigh bleed
   - consider rescan of abdomen if Hct continues to fall
   .
   # Respiratory Failure-Patient with poor inspiratory effort and fluid
   overload.
   - OOB to chair today
   - PT consult
   - incentive spirometer, chest PT
   - albuterol/atrovent nebs
   - diuresis
   .
   #. AMS: alert, responsive, following commands, neuro exam grossly
   intact.  Patient perseverative, likely with short term memory deficits
   from hypoxia/hypoperfusion, although it is unclear what her long term
   functional status will be.
   - will continue to monitor neuro exam
   - minimize sedation medications; will space out dilaudid prn
   .
   #. Obstructive Cardiogenic Shock: Pt in cardiogenic shock [**3-1**] PE
   burden. TTE showed hypokinetic, dilated RV. LV systolic function
   intact. Pt is likely preload dependent and is responds well to IVF.
   Now weaned off of pressors, with BP low overnight secondary to pain
   medication but improved BP this morning.
   - will continue fluid boluses versus PRBCs prn for hypotension if
   needed
   - if BP remains stable, would like to diurese today (pt currently
   autodiuresing, but will monitor UOP for goal >2L neg)
   .
   #. Large PE s/p thrombolytics: Pt noted to have a large PE on CT scan
   likely [**3-1**] immobile status s/p surgery. Due to her PEA arrest she
   underwent thrombolytic therapy on [**1-24**]. Currently on heparin gtt. No
   e/o DIC; fibrinogen likely low [**3-1**] t-PA.
   - continue heparin gtt with goal PTT 60-80.
   - transfuse for goal Hct>30
   - monitor Hct
   - guaiac all stools
   - hold off on transition to coumadin until Hct stable
   .
   #. [**Last Name (un) **]: FeNA 0.6. Cr continues to increase after hydration and improved
   hemodynamics, more consistent with ATN caused by
   hypoperfusion/hypotension. CT scan also showed e/o ATN bilaterally.
   - renally dose meds
   - trend Cr and lytes daily
   - consider renal consult if Cr worsens
   .
   #. Transaminitis: Hepatic congestion [**3-1**] right heart strain vs.
   ischemic hepatitis, degree of elevation more c/w congestion.  Trending
   down today.
   - continue to monitor
   .
   #. ?Catheter wire: On CXR portable there appears to be an artifact that
   could be a threading wire, unclear if this is external or internal
   though on my check after CXR read there appears to be no external wire.
   Oblique view showed artifact had relocated to below the diaphragm,
   highly unlikely that this is internal.
   - Repeat films have shown no foreign object
   .
   #. s/p Breast surgery reduction c/b infection: Pt noted to have some
   bleeding at right breast surgical site after tPA. Plastics following.
   - appreciate plastics recs
   - course of levaquin completed
   - f/u bld cx
   - continue with surgibra/pressure dressing over surgical site
   ICU Care
   Nutrition: clear fluids, will advance to full as tolerated
   Glycemic Control:
   Lines:
   -will place picc today and plan to remove femoral CVL and a line
   Multi Lumen - [**2129-1-24**] 01:30 PM
   Arterial Line - [**2129-1-25**] 12:16 AM
   Prophylaxis:
   DVT: heparin drip
   Stress ulcer: PPI
   VAP:
   Comments: bowel regimen, antiemetics, pain regimen with prn dilaudid
   Communication:  Comments: patient and husband
   [**Name (NI) 156**] status: Full code
   Disposition: ICU for now

2129-01-27 09:13:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Renal Failure
   Anemia
   Pulmonary Embolus
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2129-1-26**] 10:03 AM--oxygen weaned down
   to nasal cannula and incentive spirometry started.
   -Pressors weaned to off
   -Patient with persistent anemia requiring 2 units PRBC yesterday
   -Patient with emesis following dilaudid
   -Substantial increase in urine output is seen
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Penicillins
   Anaphylaxis;
   Macrobid (Oral) (Nitrofurantoin/Nitrofuran Mac)
   Unknown;
   Betadine (Topical) (Povidone-Iodine)
   redness
   itchin
   Last dose of Antibiotics:
   Levofloxacin - [**2129-1-24**] 06:00 PM
   Vancomycin - [**2129-1-25**] 07:43 AM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Heparin Sodium - [**2129-1-26**] 12:39 PM
   Fentanyl - [**2129-1-27**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Pain: [**6-2**] Moderate
   Pain location: diffuse
   Flowsheet Data as of  [**2129-1-27**] 08:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.8
C (98.3
   HR: 94 (91 - 118) bpm
   BP: 145/56(84) {83/40(54) - 155/57(87)} mmHg
   RR: 16 (15 - 19) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 115 kg (admission): 118.3 kg
             Total In:
                                                                  2,068 mL
                                                                    238 mL
   PO:
                                                                    750 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    618 mL
                                                                    138 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  3,990 mL
                                                                  1,335 mL
   Urine:
                                                                  3,990 mL
                                                                  1,135 mL
   NG:
   200 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,922 mL
                                                                 -1,097 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Wheezes : , Diminished: )
   Abdominal: Soft, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+--significant left sided ecchymosis in femoral area consistent
   with substantial hematoma
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, perseverative
   questioning
   Labs / Radiology
   8.9 g/dL
   123 K/uL
   98 mg/dL
   3.0 mg/dL
   24 mEq/L
   3.8 mEq/L
   37 mg/dL
   106 mEq/L
   138 mEq/L
   25.9 %
   8.6 K/uL
        [image002.jpg]
                            [**2129-1-25**]  11:29 PM
                            [**2129-1-26**]  03:59 AM
                            [**2129-1-26**]  04:10 AM
                            [**2129-1-26**]  08:06 AM
                            [**2129-1-26**]  08:33 AM
                            [**2129-1-26**]  11:46 AM
                            [**2129-1-26**]  04:43 PM
                            [**2129-1-26**]  07:00 PM
                            [**2129-1-27**]  01:46 AM
                            [**2129-1-27**]  05:21 AM
   WBC
   8.4
   8.1
   7.4
   8.1
   8.6
   Hct
   26.8
   25.1
   24.0
   22.2
   23.7
   22.4
   26.3
   25.9
   Plt
   157
   151
   119
   123
   123
   Cr
   2.9
   3.0
   TCO2
   25
   25
   Glucose
   131
   98
   Other labs: PT / PTT / INR:12.3/62.4/1.0, ALT / AST:53/59, Alk Phos / T
   Bili:68/0.5, Fibrinogen:273 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.1
   g/dL, LDH:494 IU/L, Ca++:7.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Imaging: CXR--decreased lung volmes, mild interstitial edema
   Assessment and Plan
   51 yo female admitted with pulmonary embolus and PEA arrest now with
   extubation completed but with residual issues of renal failure, anemia,
   pain and persistent memory deficits.
   1)Respiratory Failure-This is currently greatest risk to patient with
   immobility and this was emphasized with her and staff would agree.
   -Will continue incentive spirometry 10x/hr while awake
   -Will need to get out of bed today
will get PT consult to aid in
   mobilization
   -Will need nebs to continue to support
   2)Anemia-Concerning for blood loss as we have no evidence of hemolysis
   and no bowel movements.
   -CT of thigh/groin area
   -Continue to transfuse as needed based on 8 hour intervals
   -Goal HCT=>24 with evidence of acute loss
   3)Renal Failure-Likely ATN and pre-renal insult with myocardial
   dysfunction and arrest.  Does appear to be in the phase of post ATN
   diruesis and will have to follow function and fluid balance
   -Follow urine output
   -Goal negative 2-4 liters today
   4)Altered Memory-This is quite likely attributable to transient anoxic
   insult with arrest as residual effects of medications have likely
   passed.
   -Will have to consider behavior
   5)Pain Control-
   -Will use as needed Dilaudid
   ICU Care
   Nutrition: Will move to PO as tolerated with return of bowel function
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-1-24**] 01:30 PM
   Arterial Line - [**2129-1-25**] 12:16 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Family updated in full
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2129-01-28 07:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**1-27**]:
   - CT thigh showed no source of bleed
   - autodiuresing, also gave Lasix 20 IV, was neg 3L
   - had bilious emesis x 1, likely [**3-1**] constipation, then had large BM
   - IR placed PICC
   - Fem line D/Ced
   Allergies:
   Penicillins
   Anaphylaxis;
   Macrobid (Oral) (Nitrofurantoin/Nitrofuran Mac)
   Unknown;
   Betadine (Topical) (Povidone-Iodine)
   redness
   itchin
   Last dose of Antibiotics:
   Vancomycin - [**2129-1-25**] 07:43 AM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Fentanyl - [**2129-1-27**] 08:15 AM
   Pantoprazole (Protonix) - [**2129-1-27**] 07:48 PM
   Furosemide (Lasix) - [**2129-1-28**] 05:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-28**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**31**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.4
C (99.4
   HR: 107 (90 - 107) bpm
   BP: 141/64(89) {123/52(77) - 180/72(103)} mmHg
   RR: 18 (14 - 23) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 113 kg (admission): 118.3 kg
             Total In:
                                                                  1,220 mL
                                                                    808 mL
   PO:
                                                                    920 mL
                                                                    600 mL
   TF:
   IVF:
                                                                    300 mL
                                                                     88 mL
   Blood products:
   Total out:
                                                                  4,745 mL
                                                                  1,095 mL
   Urine:
                                                                  3,545 mL
                                                                  1,095 mL
   NG:
                                                                  1,200 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,525 mL
                                                                   -287 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///24/
   Physical Examination
   GENERAL: Obese Caucasian Female in NAD
   HEENT: NCAT, PERRL, EOMI, OP clear, MMM
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**].
   LUNGS: Diffusely wheezy anteriorly
   ABDOMEN: +BS, obese and distended, TTP diffusely, but most noticeable
   in lower quadrants, no rebound or guarding
   EXTREMITIES: 3+ UE edema with RUE bullous blisters,  2+ dorsalis pedis/
   posterior tibial pulses.
   NEURO: A&Ox3. perseverative.
   PSYCH: Listens and responds to questions appropriately
   Labs / Radiology
   174 K/uL
   9.0 g/dL
   115 mg/dL
   2.7 mg/dL
   24 mEq/L
   3.6 mEq/L
   39 mg/dL
   105 mEq/L
   140 mEq/L
   25.4 %
   9.2 K/uL
        [image002.jpg]
                            [**2129-1-26**]  08:33 AM
                            [**2129-1-26**]  11:46 AM
                            [**2129-1-26**]  04:43 PM
                            [**2129-1-26**]  07:00 PM
                            [**2129-1-27**]  01:46 AM
                            [**2129-1-27**]  05:21 AM
                            [**2129-1-27**]  10:46 AM
                            [**2129-1-27**]  05:01 PM
                             [**2129-1-28**]  12:05 AM
                             [**2129-1-28**]  04:45 AM
   WBC
   7.4
   8.1
   8.6
   9.2
   9.2
   Hct
   22.2
   23.7
   22.4
   26.3
   25.9
   27.8
   28.0
   26.4
   25.4
   Plt
   119
   123
   123
   142
   174
   Cr
   3.0
   2.9
   2.7
   TCO2
   25
   Glucose
   98
   114
   115
   Other labs: PT / PTT / INR:12.1/47.3/1.0, ALT / AST:53/59, Alk Phos / T
   Bili:68/0.5, Fibrinogen:273 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.1
   g/dL, LDH:494 IU/L, Ca++:7.4 mg/dL, Mg++:2.3 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   51 yo F s/p recent b/l breast reduction c/b infection p/w PEA arrest x3
   s/p multiple cycles of Atropine/Epi likely [**3-1**] PE s/p thrombolytics on
   heparin gtt, now of pressors and extubated.
   .
   # Anemia: Pt continues to have falling Hct despite transfusions. Source
   of bleeding unclear- unlikely to be all explained by surgical site, CT
   ab neg for RP bleed.   No signs of hemolysis.  Patient does have
   ecchymosis in left groin (line placed in rt groin).
   - cont q6 Hct checks and transfuse for Hct<25.  Would space out Hct
   checks if next is stable.
   - CT leg not source on our read, await final read.
   - consider rescan of abdomen if Hct continues to fall
   .
   # Respiratory Failure-Patient with poor inspiratory effort and fluid
   overload.  CXR difficult to interpret this AM given
   - OOB to chair yesterday
   - PT consult
   - incentive spirometer, chest PT
   - albuterol/atrovent nebs
   - diuresis
   .
   #. AMS: alert, responsive, following commands, neuro exam grossly
   intact.  Patient perseverative, likely with short term memory deficits
   from hypoxia/hypoperfusion, although it is unclear what her long term
   functional status will be.
   - will continue to monitor neuro exam
   - minimize sedation medications; will space out dilaudid prn
   .
   #. Obstructive Cardiogenic Shock: Pt in cardiogenic shock [**3-1**] PE
   burden. TTE showed hypokinetic, dilated RV. LV systolic function
   intact. Pt is likely preload dependent and is responds well to IVF.
   Now weaned off of pressors, with BP low overnight secondary to pain
   medication but improved BP this morning.
   - will procede with cautious diuresis as patient is thought to be
   grossly volume overloaded,
   - if BP becomes an issue today, can give back some volume.
   .
   #. Large PE s/p thrombolytics: Pt noted to have a large PE on CT scan
   likely [**3-1**] immobile status s/p surgery. Due to her PEA arrest she
   underwent thrombolytic therapy on [**1-24**]. Currently on heparin gtt. No
   e/o DIC; fibrinogen likely low [**3-1**] t-PA.
   - continue heparin gtt with goal PTT 60-80.
   - transfuse for goal Hct>30
   - monitor Hct
   - guaiac all stools
   - hold off on transition to coumadin until Hct stable
   .
   #. [**Last Name (un) **]: FeNA 0.6. Cr continues to increase after hydration and improved
   hemodynamics, more consistent with ATN caused by
   hypoperfusion/hypotension. CT scan also showed e/o ATN bilaterally.
   Cre down slightly today, with BUN up slightly, this may complicate
   diuresis.
   - renally dose meds
   - trend Cr and lytes daily
   - consider renal consult if Cr worsens
   .
   #. Transaminitis: Hepatic congestion [**3-1**] right heart strain vs.
   ischemic hepatitis, degree of elevation more c/w congestion.  Trending
   down today.
   - continues to trend down, this along with better renal function may
   indicate better forward flow.
   .
   #. s/p Breast surgery reduction c/b infection: Pt noted to have some
   bleeding at right breast surgical site after tPA. Plastics following.
   - appreciate plastics recs
   - course of levaquin completed
   - f/u bld cx
   - continue with surgibra/pressure dressing over surgical site
   ICU Care
   Nutrition: clear fluids, will advance to full as tolerated
   Glycemic Control:
   Lines:
   -PICC placed, CVL d/c
d and plan for A-line d/c
   Multi Lumen - [**2129-1-24**] 01:30 PM
   Arterial Line - [**2129-1-25**] 12:16 AM
   Prophylaxis:
   DVT: heparin drip
   Stress ulcer: PPI
   VAP:
   Comments: bowel regimen, antiemetics, pain regimen with prn dilaudid
   Communication:  Comments: patient and husband
   [**Name (NI) 156**] status: Full code
   Disposition: Call out to floor
   Disposition:

2129-01-28 11:15:00 Physician Attending Progress Note
Chief Complaint: Pulmonary emboli
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains extubated, off vasopressors.
   Complaints include generalized skin/body "soreness" and chest pain
   (area of CPR) and upper back pain (chronic).
   Denies dyspnea.
                                  History obtained from [**Hospital 19**] Medical records
   Allergies:
   Penicillins
   Anaphylaxis;
   Macrobid (Oral) (Nitrofurantoin/Nitrofuran Mac)
   Unknown;
   Betadine (Topical) (Povidone-Iodine)
   redness
   itchin
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-1-27**] 07:48 PM
   Furosemide (Lasix) - [**2129-1-28**] 05:11 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**1-29**] Minimal
   Pain location: diffuse
   Flowsheet Data as of  [**2129-1-28**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**31**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.2
C (99
   HR: 103 (93 - 113) bpm
   BP: 175/65(98) {123/52(77) - 183/82(119)} mmHg
   RR: 20 (14 - 25) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 113 kg (admission): 118.3 kg
             Total In:
                                                                  1,220 mL
                                                                  1,020 mL
   PO:
                                                                    920 mL
                                                                    720 mL
   TF:
   IVF:
                                                                    300 mL
                                                                    180 mL
   Blood products:
   Total out:
                                                                  4,745 mL
                                                                  2,850 mL
   Urine:
                                                                  3,545 mL
                                                                  1,850 mL
   NG:
                                                                  1,200 mL
                                                                  1,000 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,525 mL
                                                                 -1,830 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: ),
   bilateral dressings over breasts
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.0 g/dL
   174 K/uL
   115 mg/dL
   2.7 mg/dL
   24 mEq/L
   3.6 mEq/L
   39 mg/dL
   105 mEq/L
   140 mEq/L
   25.4 %
   9.2 K/uL
        [image002.jpg]
                            [**2129-1-26**]  08:33 AM
                            [**2129-1-26**]  11:46 AM
                            [**2129-1-26**]  04:43 PM
                            [**2129-1-26**]  07:00 PM
                            [**2129-1-27**]  01:46 AM
                            [**2129-1-27**]  05:21 AM
                            [**2129-1-27**]  10:46 AM
                            [**2129-1-27**]  05:01 PM
                             [**2129-1-28**]  12:05 AM
                             [**2129-1-28**]  04:45 AM
   WBC
   7.4
   8.1
   8.6
   9.2
   9.2
   Hct
   22.2
   23.7
   22.4
   26.3
   25.9
   27.8
   28.0
   26.4
   25.4
   Plt
   119
   123
   123
   142
   174
   Cr
   3.0
   2.9
   2.7
   TCO2
   25
   Glucose
   98
   114
   115
   Other labs: PT / PTT / INR:12.1/47.3/1.0, ALT / AST:53/59, Alk Phos / T
   Bili:68/0.5, Fibrinogen:273 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.1
   g/dL, LDH:494 IU/L, Ca++:7.4 mg/dL, Mg++:2.3 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   51 yof s/p PEA arrest (in field) attritubed to bilateral pulmonary
   emboli.
   RESPIRATORY FAILURE -- resolved.  Attributed to acute pulmonary emboli
   and PEA arrest.  Improved.  Monitor RR, SaO2.  Maintain SaO2 > 90%.
   PULMONARY EMBOLI -- s/p arrest and thrombolysis.  Predisposing
   condition of immobility following surgery.  Continue anticoagulation.
   Maintain PTT 60-80.  Initiate warfarin if no further procedures
   planned.
   ANEMIA -- attributed to acute blood loss.  No recent transfusion, but
   now may be re-equilibrating.  At risk for blood loss into thigh (sight
   of femoral central line).  Monitor serial Hct, maintain Hct >24.
   RENAL FAILURE -- attributed to ATN in context of PEA arrest.
   NAUSEA -- attributed to narcotics (in part), and other medications.
   Monitor symptoms and abdominal exam.  Provide symptomatic relief.
   CHEST PAIN -- attributed to chest compressions (CPR).  Symptomatic
   relief.
   BACK PAIN -- upper, chronic.  Continue medications to optimize pain
   management.
   FLUIDS -- net volume overloaded from resussitation.  Goal net negative
   2 L over next 24 hrs.
   BREAST REDUCTION SURGERY -- complicated by incision infections -->
   monitored by Plastic Surgery.  Dressing changes.
   NUTRITIONAL SUPPORT -- PO, but poor intake.
   ACTIVITY -- encourage OOB to chair (with assist).
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2129-1-25**] 12:16 AM
   PICC Line - [**2129-1-27**] 02:40 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2129-01-29 13:59:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Pt. known to MICU service (transferred out yesterday following
   treatment for PEA arrest attributed to massive bilateral pulmonary
   emboli --> lysis).  Returns now for management of worsening anemia.
   Early this AM, noted to have significant amount of blood and clots in
   bedsheets.  Repeat Hct= 20.8, PTT= 81 (on heparin).  No hemodynamic
   compromise or symptoms.  Heparin held.  Transfused 2 units PRBC and
   transferred to MICU for further evaluation and management.
   Offers not new complaints except abd distention.  Notes some nausea.
   Denies abd pain.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Penicillins
   Anaphylaxis;
   Macrobid (Oral) (Nitrofurantoin/Nitrofuran Mac)
   Unknown;
   Betadine (Topical) (Povidone-Iodine)
   redness
   itchin
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-1-29**] 11:01 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**3-31**] Mild
   Pain location: Generalized pain/discomfort
   Flowsheet Data as of  [**2129-1-29**] 01:58 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**31**] AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 105 (99 - 108) bpm
   BP: 178/64(91) {126/55(79) - 178/64(91)} mmHg
   RR: 28 (0 - 28) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 113 kg (admission): 118.3 kg
           Total In:
                                                                  1,296 mL
                                                                    385 mL
   PO:
                                                                    820 mL
           TF:
   IVF:
                                                                    356 mL
                                                                     10 mL
   Blood products:
   375 mL
   Total out:
                                                                  4,005 mL
                                                                    305 mL
   Urine:
                                                                  2,605 mL
                                                                    305 mL
   NG:
                                                                  1,400 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,709 mL
                                                                     80 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , Obese, Rectal exam with dark blood.
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.0 g/dL
   174 K/uL
   117 mg/dL
   2.7 mg/dL
   24 mEq/L
   3.9 mEq/L
   40 mg/dL
   105 mEq/L
   138 mEq/L
   23.3 %
   9.2 K/uL
        [image002.jpg]
                            [**2129-1-26**]  04:43 PM
                            [**2129-1-26**]  07:00 PM
                            [**2129-1-27**]  01:46 AM
                            [**2129-1-27**]  05:21 AM
                            [**2129-1-27**]  10:46 AM
                            [**2129-1-27**]  05:01 PM
                             [**2129-1-28**]  12:05 AM
                             [**2129-1-28**]  04:45 AM
                             [**2129-1-28**]  02:04 PM
                             [**2129-1-29**]  12:50 PM
   WBC
   7.4
   8.1
   8.6
   9.2
   9.2
   Hct
   23.7
   22.4
   26.3
   25.9
   27.8
   28.0
   26.4
   25.4
   24.1
   23.3
   Plt
   119
   123
   123
   142
   174
   Cr
   3.0
   2.9
   2.7
   2.7
   Glucose
   98
   114
   115
   117
   Other labs: PT / PTT / INR:12.5/49.3/1.0, ALT / AST:53/59, Alk Phos / T
   Bili:68/0.5, Fibrinogen:273 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.1
   g/dL, LDH:494 IU/L, Ca++:7.6 mg/dL, Mg++:2.5 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   51 yof s/p PEA arrest (in field) attritubed to bilateral pulmonary
   emboli (lysis), now with acute GI/GU bleed.
   ANEMIA -- attributed to acute blood loss.  Concerns include GI or GU
   blood loss.  At risk for blood loss into thigh (sight of femoral
   central line) or retropritoneal bleed.  Concern for ishemic bowel
   (noted inflammation on most recent CT scan).  No evidence for
   hemolysis.  Echymosis (chest, arms, right groin) accounts for some
   blood loss.  Plan check NGT lavage to assess for UGI bleeding source.
   Monitor serial abd exam, serial Hct, maintain Hct >24.  GI and GU
   consultation.  Repeat ABD/pelvic CT scan.  General surgery to F/U.
   Hold anticoagulation pending evaluation.
   PULMONARY EMBOLI -- s/p arrest and thrombolysis.  Predisposing
   condition of immobility following surgery.  Hold anticoagulation,
   resume once bleeding issue resolved.
   RENAL FAILURE -- attributed to ATN in context of PEA arrest.  Slow
   recovery, but may be left with chronic insufficiency.
   NAUSEA -- attributed to narcotics (in part), and other medications.
   Monitor symptoms and abdominal exam.  Provide symptomatic relief.
   CHEST PAIN -- attributed to chest compressions (CPR).  Symptomatic
   relief.
   BACK PAIN -- upper, chronic.  Continue medications to optimize pain
   management.
   FLUIDS -- net volume overloaded from resussitation.  Goal net negative
   2 L over next 24 hrs.
   BREAST REDUCTION SURGERY -- complicated by incision infections -->
   monitored by Plastic Surgery.  Dressing changes.
   NUTRITIONAL SUPPORT -- PO, but poor intake.
   ACTIVITY -- encourage OOB to chair (with assist).
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2129-1-29**] 10:29 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2129-01-30 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - NG lavage performed at bedside, green bilious returned, gastroccult
   (-) after second large bloody BM.
   -  Had [**3-31**] more bloody BMs overnight.
   -  GI asked for tagged red cell scan that showed no identifiable
   source.
   -  Surgery came by recomended NPO, NGT (patient refused), mesenteric
   vein doppler which radiology thought would be technically impossible to
   very low yield [**3-1**] body habitus, and d/c bowel regimen.
   - Breast surgeons came by and removed a sizeable clot from her right
   breast yesterday PM after she soake through her packing and bra.
   Currently packed with surgicel and compression dressing.
   Family updated
   Allergies:
   Penicillins
   Anaphylaxis;
   Macrobid (Oral) (Nitrofurantoin/Nitrofuran Mac)
   Unknown;
   Betadine (Topical) (Povidone-Iodine)
   redness
   itchin
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,600 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-1-29**] 11:01 AM
   Haloperidol (Haldol) - [**2129-1-30**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-30**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**31**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.6
C (97.8
   HR: 97 (93 - 109) bpm
   BP: 158/60(83) {126/40(68) - 180/77(105)} mmHg
   RR: 24 (0 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113 kg (admission): 118.3 kg
           Total In:
                                                                  1,128 mL
                                                                    599 mL
   PO:
           TF:
   IVF:
                                                                    111 mL
                                                                    166 mL
   Blood products:
                                                                  1,017 mL
                                                                    433 mL
   Total out:
                                                                    980 mL
                                                                    525 mL
   Urine:
                                                                    980 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    148 mL
                                                                     74 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   GENERAL: Irritated well appearing female in NAD
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear. Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Tachycardic, Normal S1, S2. No murmurs, rubs or [**Last Name (un) 4808**].
   LUNGS: Clear anterior;y, good air movement biaterally.
   ABDOMEN: quiet bowel sounds. Distended, slightly firm. Moderate diffuse
   tenderness. No guarding. Very mild rebound.
   EXTREMITIES: Ecchymoses in LUE>RUE. RUE skin breakdown. LLE.
   SKIN: No rashs.
   NEURO: A&Ox3. CN 2-12 grossly intact.
   PSYCH: Listens and responds to questions appropriately.
   GI: no blood on sheets
   Labs / Radiology
   174 K/uL
   9.6 g/dL
   107 mg/dL
   2.0 mg/dL
   26 mEq/L
   3.6 mEq/L
   37 mg/dL
   107 mEq/L
   144 mEq/L
   27.7 %
   11.6 K/uL
        [image002.jpg]
                            [**2129-1-27**]  05:21 AM
                            [**2129-1-27**]  10:46 AM
                            [**2129-1-27**]  05:01 PM
                             [**2129-1-28**]  12:05 AM
                             [**2129-1-28**]  04:45 AM
                             [**2129-1-28**]  02:04 PM
                             [**2129-1-29**]  12:50 PM
                             [**2129-1-29**]  09:58 PM
                             [**2129-1-30**]  01:47 AM
                             [**2129-1-30**]  05:42 AM
   WBC
   8.6
   9.2
   9.2
   10.2
   11.6
   Hct
   25.9
   27.8
   28.0
   26.4
   25.4
   24.1
   23.3
   27.0
   27.6
   27.7
   Plt
   123
   142
   174
   178
   174
   Cr
   2.9
   2.7
   2.7
   2.0
   Glucose
   114
   115
   117
   107
   Other labs: PT / PTT / INR:13.1/55.7/1.1, ALT / AST:53/59, Alk Phos / T
   Bili:68/0.5, Fibrinogen:273 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.1
   g/dL, LDH:494 IU/L, Ca++:7.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN: 51F s/p recent PEA arrest from massive PE now
   presenting to the [**Hospital Unit Name 4**] in ther setting of falling HCTs and BRBPR in the
   setting of a Heparin gtt.
   .
   #: HCT Drop: Pt remains hemodynamically stable with SBPs in 160s. This
   AM she had two more bloody bowel movements, and despite transfusions
   she appearrs to have stagnated at a hct of 27.  At this point her blood
   loss appearrs to be a combination of GI and breast.
   - Maintain access via Power PICC, attempt to gain 1 18g PIV
   - q6 Hct Checks
 in agreement with GI and surgery our stated goal is
   30 in case she opens up
   - GI Consult
 refusing to scope, suggested tagged red cell scan which
   was negative.
   - CT Torso  - showed right breast hematoma, some ileal/jejunal
   thickening
   - Consider repeat tagged red cell scan with increased bleeding to
   identify source, attending-to-attending with GI
   - IV PPi
   - Type and Cross 4 units at all time pRBCs
   - discuss IVC filter with IR
   - continue heparin for now, if hemodynamically unstable reverse with
   protamine.
   .
   #: PE: PT remains hemodynmically stable. Has been on therapeutic
   Heparin gtt since admission. Would like to get IVC filter today.
   - continuing heparin for now
   - IVC filter
     .
   #: [**Last Name (un) **]: Cr 2.0 today from 2.4 yesterday, unclear baseline but was 1.6
   on admission which peaked at 3.0. Pt continues to make good UOP. Likely
   ATN following hypotensive event.
   - Cont to trend
   - Avoid Nephrotoxins
   #: Hypertension: Pt on Lisinopril 20mg as outpatient. Have held
   antihypertensives while in house given given Hct drop and PE. Continue
   to trend.
   - Restart ACEi at lower dose once Hct stabilizes and renal function
   improves
   - Will tolerate higher blood pressures in the setting of her GI bleed
   .
   #  AMS: Pt remains AOx3 with neuro some likely with short term memory
   deficits from hypoxia/hypoperfusion, sedation.   Concern for some ICU
   delerium at night
   - Continue to monitor and trend
   - will continue to monitor neuro exam
   - minimize sedation medications; will space out dilaudid prn
   - haldol PRN for agitation
   .
   #: Bilateral Breast Reduction Sugery: Being following by plastics. Per
   report hematoma at right breast.
   - Rt breast wound packed s/p drainage of hematoma
   - Packed with surgicell, wrapped with compressive dressing
   - NS WTD dressing to wounds [**Hospital1 **]
   FEN: NPO/Replete PRN/Do Not advance diet
   PPX:
   -DVT ppx with pneumoboots
   -Bowel regimen
   -Pain management with narcotics
   ACCESS: PICC
   CODE STATUS: Full
   EMERGENCY CONTACT: [**Name (NI) 50**]: [**Name (NI) **] [**Telephone/Fax (1) 10808**]
   DISPOSITION: [**Hospital Unit Name 10062**] Care
   Glycemic Control:
   Lines:
   PICC Line - [**2129-1-29**] 10:29 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2129-01-30 09:44:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continues to experience recurrent hematochezia and blood clots via
   rectum.  No hemodynamic compromise.  No abd pain.
   OGT lavage yesterday demonstrated bilious return, no blood.  Pt. self
   d/c'd OGT.
   Received total 6 units PRBC over past 24 hours.
   Bleeding experienced in right breast surgical incision --> packed per
   Plastic Surgery team.
   Remains on iv heparin.
   Exhibits some perseveration and confusion.  Husband states this mental
   status is not usual baseline for this patient (compared to premorbid
   state).
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Penicillins
   Anaphylaxis;
   Macrobid (Oral) (Nitrofurantoin/Nitrofuran Mac)
   Unknown;
   Betadine (Topical) (Povidone-Iodine)
   redness
   itchin
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,600 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-1-29**] 11:01 AM
   Haloperidol (Haldol) - [**2129-1-30**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**1-29**] Minimal
   Pain location: Generalized discomfort
   Flowsheet Data as of  [**2129-1-30**] 09:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**31**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37
C (98.6
   HR: 98 (93 - 109) bpm
   BP: 161/65(87) {126/40(68) - 180/77(105)} mmHg
   RR: 24 (0 - 29) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113 kg (admission): 118.3 kg
           Total In:
                                                                  1,128 mL
                                                                    908 mL
   PO:
           TF:
   IVF:
                                                                    111 mL
                                                                    262 mL
   Blood products:
                                                                  1,017 mL
                                                                    646 mL
   Total out:
                                                                    980 mL
                                                                    685 mL
   Urine:
                                                                    980 mL
                                                                    685 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    148 mL
                                                                    223 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///26/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal, Short term memory deficit
   Labs / Radiology
   9.6 g/dL
   174 K/uL
   107 mg/dL
   2.0 mg/dL
   26 mEq/L
   3.6 mEq/L
   37 mg/dL
   107 mEq/L
   144 mEq/L
   27.7 %
   11.6 K/uL
        [image002.jpg]
                            [**2129-1-27**]  05:21 AM
                            [**2129-1-27**]  10:46 AM
                            [**2129-1-27**]  05:01 PM
                             [**2129-1-28**]  12:05 AM
                             [**2129-1-28**]  04:45 AM
                             [**2129-1-28**]  02:04 PM
                             [**2129-1-29**]  12:50 PM
                             [**2129-1-29**]  09:58 PM
                             [**2129-1-30**]  01:47 AM
                             [**2129-1-30**]  05:42 AM
   WBC
   8.6
   9.2
   9.2
   10.2
   11.6
   Hct
   25.9
   27.8
   28.0
   26.4
   25.4
   24.1
   23.3
   27.0
   27.6
   27.7
   Plt
   123
   142
   174
   178
   174
   Cr
   2.9
   2.7
   2.7
   2.0
   Glucose
   114
   115
   117
   107
   Other labs: PT / PTT / INR:13.1/61.5/1.1, ALT / AST:53/59, Alk Phos / T
   Bili:68/0.5, Fibrinogen:273 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.1
   g/dL, LDH:494 IU/L, Ca++:7.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   51 yof s/p PEA arrest (in field) attritubed to bilateral pulmonary
   emboli (lysis), now with acute GI bleed.
   ANEMIA -- attributed to acute blood loss.  Appears to be GI (lower
   source).  Blood loss also through breast incision sites, and at risk
   for blood loss into thigh (sight of femoral central line).  Concern for
   ishemic bowel (noted inflammation on most recent CT scan).  No evidence
   for hemolysis.  Ecchymosis (chest, arms, right groin) accounts for some
   blood loss.  Monitor serial abd exam, serial Hct, maintain Hct >28.  GI
   consultation in place.  General surgery to F/U.  Hold anticoagulation
   pending evaluation.
   GI bleed
 unclear source, but concerns include diverticular bleed,
   ischemic colitis, or tumor.  Not yet identifed site.  If persistent
   bleeding (off heparin) would proceed with repeat bleeding scan, and
   consider angiography +/- embolizattion.  GI service and Surgery
   following.
   PULMONARY EMBOLI -- s/p arrest and thrombolysis.  Predisposing
   condition of immobility following surgery.  WouldHold anticoagulation,
   resume once bleeding issue resolved.  If unable to continue
   anticoagulation, would place IVC filter (removable).
   NAUSEA
 evidence for ileus (gastric and proximal small bowel air-fluid
   level).  Unfortunately pt. self d/c
d OGT.  Will encourage pt to accept
   replacement of NGT.
   RENAL FAILURE -- attributed to ATN in context of PEA arrest.  Slow
   recovery, but may be left with chronic insufficiency.
   NAUSEA -- attributed to narcotics (in part), and other medications.
   Monitor symptoms and abdominal exam.  Provide symptomatic relief.
   CHEST PAIN -- attributed to chest compressions (CPR).  Symptomatic
   relief.
   BACK PAIN -- upper, chronic.  Continue medications to optimize pain
   management.
   FLUIDS -- net volume overloaded from resussitation.  Goal net negative
   2 L over next 24 hrs.
   BREAST REDUCTION SURGERY -- complicated by incision infections, now
   with bleeding complications while on heparin --> monitored by Plastic
   Surgery.  Dressing changes.
   ALTERED MENTAL STATUS
 concern for arrest-associated encephalopathy.
   NUTRITIONAL SUPPORT -- PO, but poor intake.
   ACTIVITY -- encourage OOB to chair (with assist).
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2129-1-29**] 10:29 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:   Updated medical condition during family
   meeting.
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2129-01-31 08:01:00 Physician Resident Progress Note
Chief Complaint: LGIB
   24 Hour Events:
   - Hct stable but continued bloody BMs and bleeding from R breast
   - repeat tagged RBC scan--> sigmoid bleed
   - IR placed IVC filter, stopped heparin gtt
   - LENIs scheduled for AM
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Anaphylaxis;
   Macrobid (Oral) (Nitrofurantoin/Nitrofuran Mac)
   Unknown;
   Betadine (Topical) (Povidone-Iodine)
   redness
   itchin
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-1-31**] 12:18 AM
   Other medications:
   Changes to medical and family history:
   c/o hunger this AM, (-) chest pain
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain, recurrent bloody stool
   overnight
   Neurologic: No(t) Numbness / tingling
   Flowsheet Data as of  [**2129-1-31**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**31**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 86 (82 - 94) bpm
   BP: 154/57(80) {0/0(72) - 190/68(94)} mmHg
   RR: 30 (20 - 34) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113 kg (admission): 118.3 kg
             Total In:
                                                                  1,789 mL
                                                                    797 mL
   PO:
             TF:
   IVF:
                                                                    710 mL
                                                                    797 mL
   Blood products:
                                                                  1,079 mL
   Total out:
                                                                  2,435 mL
                                                                  1,040 mL
   Urine:
                                                                  2,435 mL
                                                                  1,040 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -646 mL
                                                                   -243 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   173 K/uL
   10.4 g/dL
   85 mg/dL
   1.7 mg/dL
   21 mEq/L
   3.5 mEq/L
   33 mg/dL
   110 mEq/L
   141 mEq/L
   30.1 %
   9.4 K/uL
        [image002.jpg]
                             [**2129-1-28**]  04:45 AM
                             [**2129-1-28**]  02:04 PM
                             [**2129-1-29**]  12:50 PM
                             [**2129-1-29**]  09:58 PM
                             [**2129-1-30**]  01:47 AM
                             [**2129-1-30**]  05:42 AM
                             [**2129-1-30**]  12:37 PM
                             [**2129-1-30**]  06:11 PM
                             [**2129-1-30**]  11:30 PM
                             [**2129-1-31**]  04:56 AM
   WBC
   9.2
   10.2
   11.6
   9.4
   Hct
   25.4
   24.1
   23.3
   27.0
   27.6
   27.7
   32.1
   32.1
   29.8
   30.1
   Plt
   174
   178
   174
   173
   Cr
   2.7
   2.7
   2.0
   1.7
   Glucose
   115
   117
   107
   85
   Other labs: PT / PTT / INR:13.8/24.6/1.2, ALT / AST:40/59, Alk Phos / T
   Bili:132/1.4, Fibrinogen:273 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.3
   g/dL, LDH:520 IU/L, Ca++:6.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN: 51F s/p recent PEA arrest from massive PE now
   presenting to the [**Hospital Unit Name 4**] in ther setting of falling HCTs and BRBPR in the
   setting of a Heparin gtt.
   .
   #: HCT Drop: Pt remains hemodynamically stable with SBPs in 160s.
   Overnight more bloody bowel movements, and despite transfusions she
   appearrs to have stagnated at a hct of 27-30.  At this point her blood
   loss appearrs to be a combination of GI and breast.  Repeat RBC tagged
   scan shows sigmoid bleed.  Now s/p IVC filter
   - Maintain access via Power PICC
   - q6 Hct Checks
 in agreement with GI and surgery our stated goal is
   30 in case she opens up
   - GI Consult
 follow up recs today with known sigmoid bleed
   - CT Torso  - showed right breast hematoma, some ileal/jejunal
   thickening
   - IV PPi
   - Type and Cross 4 units at all time pRBCs
   - LENIs today, defer anti-coag for now
   .
   #: PE: PT remains hemodynmically stable. Has been on therapeutic
   Heparin gtt since admission. Would like to get IVC filter today.
   - f/u LENIs
   .
   #: [**Last Name (un) **]: Cr 1.7 today from 2.0 yesterday, unclear baseline but was 1.6
   on admission which peaked at 3.0. Pt continues to make good UOP. Likely
   ATN following hypotensive event.
   - Cont to trend
   - Avoid Nephrotoxins
   #: Hypertension: Pt on Lisinopril 20mg as outpatient. Have held
   antihypertensives while in house given given Hct drop and PE. Continue
   to trend.
   - Restart ACEi at lower dose once Hct stabilizes and renal function
   improves
   - Will tolerate higher blood pressures in the setting of her GI bleed
   .
   #  AMS: Pt remains AOx3 with neuro some likely with short term memory
   deficits from hypoxia/hypoperfusion, sedation.   Concern for some ICU
   delerium at night
   - Continue to monitor and trend
   - will continue to monitor neuro exam
   - minimize sedation medications; will space out dilaudid prn
   - haldol PRN for agitation
   .
   #: Bilateral Breast Reduction Sugery: Being following by plastics. Per
   report hematoma at right breast.
   - Rt breast wound packed s/p drainage of hematoma
   - Packed with surgicell, wrapped with compressive dressing
   - NS WTD dressing to wounds [**Hospital1 **]
   FEN: NPO/Replete PRN/Do Not advance diet
   PPX:
   -DVT ppx with pneumoboots
   -Bowel regimen
   -Pain management with narcotics
   - nutrition ? TPN with active GI bleed
   ACCESS: PICC
   CODE STATUS: Full
   EMERGENCY CONTACT: [**Name (NI) 50**]: [**Name (NI) **] [**Telephone/Fax (1) 10808**]
   DISPOSITION: [**Hospital Unit Name 10062**] Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2129-1-29**] 10:29 AM
   Prophylaxis:
   DVT: IVC filter
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2129-02-01 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   HPI:
   - put in OT consult
   - LENIs (-), wet read
   - GI -> suggested restarting anti-coag, only if pt started prep for
   possible colonoscopy if sigmoid hemorrhage recurred.  pt declined prep,
   so will cont to defer anti-coag
   - plastics -> cont dressing changes/wound care, ? to OR for evacuation
   and wash out of right breast hematoma
   - plastics rec antibiotics ppx so that hematoma does not get infected
   Allergies:
   Penicillins
   Anaphylaxis;
   Macrobid (Oral) (Nitrofurantoin/Nitrofuran Mac)
   Unknown;
   Betadine (Topical) (Povidone-Iodine)
   redness
   itchin
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-1-31**] 08:30 PM
   Other medications:
   Past medical history:
   Family history:
   Social History:
   Occupation:
   Drugs:
   Tobacco:
   Alcohol:
   Other:
   Review of systems:
   Flowsheet Data as of [**2129-2-1**] 06:59 AM
   Vital Signs
   Hemodynamic monitoring
   Fluid Balance
                                                                  24 hours
                                                               Since [**31**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.4
   HR: 88 (75 - 90) bpm
   BP: 141/61(81) {126/46(40) - 214/71(104)} mmHg
   RR: 20 (17 - 33) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113 kg (admission): 118.3 kg
                  Total In:
                                                                  1,690 mL
                                                                    240 mL
   PO:
                                                                    760 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    930 mL
   Blood products:
   Total out:
                                                                  2,670 mL
                                                                    880 mL
   Urine:
                                                                  2,670 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -980 mL
                                                                   -640 mL
   Respiratory
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   254 K/uL
   11.0 g/dL
   99 mg/dL
   1.6 mg/dL
   32 mg/dL
   23 mEq/L
   106 mEq/L
   3.3 mEq/L
   139 mEq/L
   31.5 %
   9.5 K/uL
        [image002.jpg]
                                  [**2125-1-29**]
                          2:33 A1/2/[**2129**]  09:58 PM
                                  [**2125-2-2**]
                          10:20 P1/3/[**2129**]  01:47 AM
                                  [**2125-2-3**]
                          1:20 P1/3/[**2129**]  05:42 AM
                                  [**2125-2-4**]
                          11:50 P1/3/[**2129**]  12:37 PM
                                  [**2125-2-5**]
                          1:20 A1/3/[**2129**]  06:11 PM
                                  [**2125-2-6**]
                          7:20 P1/3/[**2129**]  11:30 PM
                                  1//11/006
                          1:23 P1/4/[**2129**]  04:56 AM
                                  [**2125-3-1**]
                          1:20 P1/4/[**2129**]  03:45 PM
                                  [**2125-3-1**]
                          11:20 P1/4/[**2129**]  08:37 PM
                                  [**2125-3-1**]
                          4:20 P1/5/[**2129**]  04:49 AM
   WBC
                                    10.2
                                    11.6
                                     9.4
                                     9.5
   Hct
                                    27.0
                                    27.6
                                    27.7
                                    32.1
                                    32.1
                                    29.8
                                    30.1
                                    29.8
                                    29.7
                                    31.5
   Plt
                                     178
                                     174
                                     173
                                     254
   Cr
                                     2.0
                                     1.7
                                     1.6
   Glucose
                                     107
                                     85
                                     99
   Other labs: PT / PTT / INR:14.0/21.3/1.2, ALT / AST:40/59, Alk Phos / T
   Bili:132/1.4, Fibrinogen:273 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.3
   g/dL, LDH:520 IU/L, Ca++:7.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN: 51F s/p recent PEA arrest from massive PE now
   presenting to the [**Hospital Unit Name 4**] in ther setting of falling HCTs and BRBPR in the
   setting of a Heparin gtt.
   .
   #: HCT Drop: Pt remains hemodynamically stable with SBPs in 140s, HR
   finally down to . Yesterday had first non-bloody BM, patient had
   sigmoid source on RBC scan, but refused colonoscopy.  Now s/p IVC
   filter.  Last Xfusion was [**1-30**] at 9:10 AM
   - Maintain access via Power PICC
   - [**Hospital1 **] HCT checks, tighten checks if bloody BM
   - Non-bloody BM yesterday
   - GI Consult
 PT refuses scope
   - CT Torso  - showed right breast hematoma, some ileal/jejunal
   thickening
   - IV PPi
   - Type and Cross 4 units at all time pRBCs
   - LENIs-Negative
   - Would hold off on A/C until HCT stable for 48 hours
   .
   #: PE: PT remains hemodynmically stable. Now s/p IVC filter, would
   Ideally like to anticoagulate for 3-6 months, however will hold of
   pending above
   - Lenis negative
   .
   #: Bilateral Breast Reduction Sugery: Being following by plastics. Per
   report hematoma at right breast.
   - Rt breast wound packed s/p drainage of hematoma
   - asked for ppx abx
 re-starting levaquin
   - Packed with surgicell, wrapped with compressive dressing
   - NS WTD dressing to wounds [**Hospital1 **]
   .
   #: [**Last Name (un) **]: Cr 1.6 today from 1.7 yesterday, unclear baseline but was 1.6
   on admission which peaked at 3.0. Pt continues to make good UOP. Likely
   ATN following hypotensive event.  This likely represents her baseline.
   - Cont to trend
   - Avoid Nephrotoxins
   .
   #: Hypertension: Pt on Lisinopril 20mg as outpatient. Have held
   antihypertensives while in house given given Hct drop and PE. Continue
   to trend.  Would restart once HCT stable for 48 hours.
   - Restart ACEi at lower dose once Hct stabilizes and renal function
   improves
   - Will tolerate higher blood pressures in the setting of her GI bleed
   .
   #  AMS: Pt remains A+Ox3 with neuro with improving short term memory
   deficits from hypoxia/hypoperfusion, sedation.   Concern for some ICU
   delerium at night
   - Continue to monitor and trend
   - will continue to monitor neuro exam
   - minimize sedation medications; will space out dilaudid prn
   - haldol PRN for agitation
   .
   FEN: NPO/Replete PRN/Do Not advance diet
   PPX:
   -DVT ppx with pneumoboots, IVC filter
   -Bowel regimen
 Senna/Colace
   -Pain management with narcotics
   -nutrition started diet yesterday
   ACCESS: PICC
   CODE STATUS: Full
   EMERGENCY CONTACT: [**Name (NI) 50**]: [**Name (NI) **] [**Telephone/Fax (1) 10808**]
   DISPOSITION: C/O today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2129-1-29**] 10:29 AM
   Prophylaxis:
   DVT: Pneumoboots/IVC filter
   Stress ulcer: Pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2129-02-01 11:32:00 Physician Attending Progress Note
Chief Complaint: S/P PEA arrest and GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Frequent watery stools
   24 Hour Events:
 ULTRASOUND - At [**2129-1-31**] 09:15 AM
   LENIs
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Penicillins
   Anaphylaxis;
   Macrobid (Oral) (Nitrofurantoin/Nitrofuran Mac)
   Unknown;
   Betadine (Topical) (Povidone-Iodine)
   redness
   itchin
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-1-31**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, Delirious, No(t)
   Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**1-29**] Minimal
   Pain location: Breast
   Flowsheet Data as of  [**2129-2-1**] 11:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**31**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.4
   HR: 93 (75 - 93) bpm
   BP: 137/60(77) {126/46(40) - 214/71(104)} mmHg
   RR: 31 (17 - 33) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 113 kg (admission): 118.3 kg
             Total In:
                                                                  1,690 mL
                                                                    580 mL
   PO:
                                                                    760 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    930 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  2,670 mL
                                                                  1,200 mL
   Urine:
                                                                  2,670 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -980 mL
                                                                   -620 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI No(t) Normal, No(t) Hyperdynamic), (S1: Normal,
   No(t) Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely
   split , No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : few mid insp, No(t)
   Bronchial: , No(t) Wheezes : , Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   11.0 g/dL
   254 K/uL
   99 mg/dL
   1.6 mg/dL
   23 mEq/L
   3.3 mEq/L
   32 mg/dL
   106 mEq/L
   139 mEq/L
   31.5 %
   9.5 K/uL
        [image002.jpg]
                             [**2129-1-29**]  09:58 PM
                             [**2129-1-30**]  01:47 AM
                             [**2129-1-30**]  05:42 AM
                             [**2129-1-30**]  12:37 PM
                             [**2129-1-30**]  06:11 PM
                             [**2129-1-30**]  11:30 PM
                             [**2129-1-31**]  04:56 AM
                             [**2129-1-31**]  03:45 PM
                             [**2129-1-31**]  08:37 PM
                             [**2129-2-1**]  04:49 AM
   WBC
   10.2
   11.6
   9.4
   9.5
   Hct
   27.0
   27.6
   27.7
   32.1
   32.1
   29.8
   30.1
   29.8
   29.7
   31.5
   Plt
   178
   174
   173
   254
   Cr
   2.0
   1.7
   1.6
   Glucose
   107
   85
   99
   Other labs: PT / PTT / INR:14.0/21.3/1.2, ALT / AST:40/59, Alk Phos / T
   Bili:132/1.4, Fibrinogen:273 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.3
   g/dL, LDH:520 IU/L, Ca++:7.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 PULMONARY EMBOLISM (PE), ACUTE
 .H/O CARDIAC ARREST
 HYPOTENSION (NOT SHOCK)
 ALTERATION IN TISSUE PERFUSION
   She feels better and neurologically is slowly getting better. Major
   issue now is when to do colonoscopy and when to restart anticoag. She
   is anxious to start eating.  Sitting comfortably in a chair.  Would
   possibly benefit from flex sig rather than full colonoscopy and will
   discuss with GI.  Plastics following for her breast hematoma
   ICU Care
   Nutrition:
   Comments: Full
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2129-1-29**] 10:29 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes